US03968142
A mixture of 11.5 g of 3-chloro-4-cyclohexyl-phenylacetonitrile, 15 ml of absolute ethanol and 5.3 ml of concentrated sulfuric acid is refluxed overnight, then diluted with water and several times extracted with ether. The ethereal solution is washed with sodium bicarbonate solution and water and dried over sodium sulfate, evaporated, and the residue is distilled under a high vacuum, to yield 12.5 g of 3-chloro-4-cyclohexylphenylacetic acid ethyl ester boiling at 137° to 139°C under 0.3 mm Hg pressure.

reactant | 3-chloro-4-cyclohexyl-phenylacetonitrile | 11.5 g | ClC=1C=C(C=CC1C1CCCCC1)CC#N | C14H16ClN
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | sulfuric acid | 5.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 3-chloro-4-cyclohexylphenylacetic acid ethyl ester | 12.5 g | C(C)OC(CC1=CC(=C(C=C1)C1CCCCC1)Cl)=O | C16H21ClO2
